2146-03-09 06:43:00 Physician Resident Progress Note
Chief Complaint: severe sepsis
   24 Hour Events:
   - received 3 units PRBC -> HCT from 18.9 to 23.1
   - UENIs negative for DVT (pt had asymmetric R>L arm swelling)
   - 2/2 blood cxs with gram+ cocci in pairs and clusters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-9**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 70 (63 - 74) bpm
   BP: 110/48(70) {81/33(50) - 115/60(72)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (8 - 13)mmHg
   SvO2: 98%
                                Total In:
                                                                  1,934 mL
                                                                    442 mL
   PO:
                                                                    180 mL
                                TF:
   IVF:
                                                                  1,202 mL
                                                                    167 mL
   Blood products:
                                                                    552 mL
                                                                    275 mL
   Total out:
                                                                    435 mL
                                                                    370 mL
   Urine:
                                                                    435 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,499 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/31/136/25/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Dullness : ), (Breath Sounds: Diminished: at bases, but difficult exam)
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended
   Extremities: Right: 2+, Left: 1+, erythematous, warm first toe
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, CN II-XII intact
   Labs / Radiology
   35 K/uL
   6.0 g/dL
   215 mg/dL
   2.5 mg/dL
   25 mEq/L
   4.6 mEq/L
   62 mg/dL
   100 mEq/L
   131 mEq/L
   23.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2146-3-8**]  03:40 PM
                             [**2146-3-8**]  06:36 PM
                             [**2146-3-8**]  10:53 PM
                             [**2146-3-9**]  12:34 AM
   WBC
   8.5
   Hct
   18.9
   23.1
   Plt
   35
   Cr
   2.5
   TropT
   0.33
   TCO2
   23
   Glucose
   215
   Other labs: PT / PTT / INR:14.8/30.1/1.3, CK / CKMB /
   Troponin-T:226/6/0.33, Lactic Acid:1.6 mmol/L, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a [**Age over 90 323**] y/o M w/ h/o ischemic cardiomyopathy, endocarditis,
   cryptogenic cirrhosis, and MDS p/w cellulitis, sepsis, and troponin
   elevation.
   .
   #Sepsis: Likely [**2-21**] to toe infection, but prudent to eval for other
   sources such as PNA, C. Diff, Urine, SBP, and endocarditis given
   structurally abnormal valves.  Apache of 26.  rule out influenza given
   fever and dry cough.
   - Cover broadly for MRSA and gram negatives/anaerobes given diabetic
   patient with vanco/zosyn
   - CVP goal of 8-12mmHg as per protocol but would favor higher CVP's
   given h/o CHF.
   - Assess MAP by mentation, UOP and lactate.
   - Stress dose steroids, xigris
   - appreciate podiatry rec's
   - Await urinalysis.
   .
   # Hypotension: Likely septic physiology.  Baseline BP in 90's.
   - Stress dose steroids
   - CVP, Check central venous O2 sat
   - Levophed would be pressor of choice if needed.
   - hold outpatient BP medications and lasix for now.
   .
   # Cirrhosis: Stable, no h/o ascites.  Would not suspect SBP at this
   time.
   - follow clinically
   .
   # Anemia/Myelodysplastic syndrome: Baseline Hct is 22-25, transfusion
   dependent.  Will transfuse 2 units stat.  Is high risk for bleed given
   h/o GAVE
   - follow-hct
   - Will need to redose aranesp at some point (gets q2weeks)
   - continue PPI
   .
   #Thrombocytopenia: At or near baseline is 40-60.
   - Continue to trend platelets
   .
   # MI: Has h/o ischemic cardiomyopathy, and pacer.  Trop bump likely
   demand ischemia from anemia and sepsis physiology.  Will transfuse 2
   units PRBC's now and check post-transfusion Hct.  Will give third unit
   as needed.
   - hold heparin, cycle enzymes
   - Will curbside cardiology given ED called them, but do not anticipate
   acute cardiac care beyond supportive care for sepsis.
   - Consider repeat Echo once sepsis has resolved or if has persistent
   fever/bacteremia.
   .
   # Acute on Chronic Renal Failure: Likely poor forward perfusion.
   - volume resuscitate to CVP goal
   - follow-UOP
   - Trend Cr
   - Send lytes if needed
   .
   # GAVE/Watermelon stomach
   - continue PPI
   - Trend Hct.
   .
   # Diabetes: Not on diabetes medications as outpatient.  Will follow
   finger sticks, and diabetic diet when able.
   - RISS
   .
   # RUE: Swollen, had negative USE of RUE in [**2144**], appears chronic but
   would repeat RUE USD now.
   .
   # Pain: Continue lidocaine patch from home.
   # FEN: Blood products, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots
   .
   # Access: R-IJ, PIV
   .
   # Code: Full, will discuss further with patient and family in future.
   .
   # Communication: Patient and daughter
   .
   # Disposition: pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2146-3-8**] 01:45 PM
   18 Gauge - [**2146-3-8**] 01:45 PM
   Arterial Line - [**2146-3-8**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-03-10 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -stopped droplet precautions
   -cultures showed staph aureus
   -podiatry did deep wound cultures
   -to go to OR tomorrow for InD
   -TTE -> LVEF 35-40%, no veggies
   -ID consult done - stopped zosyn, frank pus drained from R hallux
   -started 60mg prednisone
   -ABI final report pending, will c/s vascular in AM
   -pacer functioning inconsistent, will c/s EP in AM
   -restarted home Lasix 60mg PO dose, I/O positive for MN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-3-9**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-3-9**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-10**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 75 (64 - 90) bpm
   BP: 132/61(86) {110/42(65) - 159/76(108)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
    CVP: 10 (10 - 16)mmHg
   Total In:
                                                                  2,070 mL
                                                                     68 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                    640 mL
                                                                     68 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  1,650 mL
                                                                    420 mL
   Urine:
                                                                  1,650 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Dullness : ), (Breath Sounds: Diminished: at bases, but difficult exam)
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended
   Extremities: Right: 2+, Left: 1+, erythematous, warm first toe
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, CN II-XII intact
   Labs / Radiology
   34 K/uL
   9.4 g/dL
   125 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   57 mg/dL
   103 mEq/L
   135 mEq/L
   27.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2146-3-8**]  03:40 PM
                             [**2146-3-8**]  06:36 PM
                             [**2146-3-8**]  10:53 PM
                             [**2146-3-9**]  12:34 AM
                             [**2146-3-9**]  05:58 AM
                             [**2146-3-9**]  03:54 PM
                             [**2146-3-10**]  02:01 AM
   WBC
   8.5
   8.4
   8.9
   8.2
   Hct
   18.9
   23.1
   26.0
   28.7
   27.2
   Plt
   35
   37
   38
   34
   Cr
   2.5
   2.2
   2.0
   TropT
   0.33
   0.20
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 8123**]
   Other labs: PT / PTT / INR:15.2/26.9/1.3, CK / CKMB /
   Troponin-T:166/6/0.20, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:10.4 %, Mono:1.8 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, LDH:292
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a [**Age over 90 323**] y/o M w/ h/o ischemic cardiomyopathy, endocarditis,
   cryptogenic cirrhosis, and MDS p/w cellulitis, severe sepsis and demand
   ischemia.
   .
   #Severe Sepsis: Likely [**2-21**] to toe infection, but prudent to eval for
   other sources such as PNA (unlikely given CXR), C. Diff, Urine (U/A
   negative), SBP (no ascites), and endocarditis (TTE with no vegetations)
   given structurally abnormal valves.  APACHE of 26.  Influenza
   negative.  On [**3-8**] grew 2/2 blood cxs with gram+ cocci in pairs and
   clusters, superficial culture grew Staph aureus.  Completed EGDT.
   - Cover broadly for MRSA with vancomycin given diabetic patient, will
   tailor ABX when final speciation and sensitivities are available from
   deeper wound cultures and OR cultures
   - f/u ID recs
   - Continue stress-dose steroids
   - to OR with Podiatry for I&D
   - f/u deeper wound cxs/OR cxs
   .
   # Pacer malfunctioning: Pacer not consistently capturing, asymptomatic
   and hemodynamically stable.
   - c/s EP
   .
   # Cirrhosis: Stable, no h/o ascites.  Would not suspect SBP at this
   time.
   - follow clinically
   .
   # Anemia/Myelodysplastic syndrome: Baseline Hct is 22-25, transfusion
   dependent.  Transfused 3 units PRBC [**3-8**].  Is high risk for bleed given
   h/o GAVE.
   - Follow HCT
   - Will need to redose aranesp at some point (gets q2weeks) if HCT
   continues to drop with transfusions
   - Continue PPI
   .
   #Thrombocytopenia: Chronic, baseline is 40-60.
   - Continue to trend platelets
   .
   # CAD: Has h/o ischemic cardiomyopathy, and pacer.  Initial trop bump
   likely [**2-21**] demand ischemia from anemia and sepsis physiology.  Received
   3 units PRBCs [**3-8**].
   - Completed r/o with 3 sets CEs
   - TTE showed no significant change since [**10-27**]
   .
   # Acute on Chronic Renal Failure: Likely poor forward perfusion and
   sepsis physiology.  Cr trending down towards baseline.
   - Initial fluid resuscitation per EGDT
   - Trend Cr
   .
   # GAVE/Watermelon stomach
   - Continue PPI
   - Trend HCT
   .
   # Diabetes: Not on diabetes medications as outpatient.  Will follow
   finger sticks, and diabetic diet when able.
   - RISS
   .
   # RUE: Swollen, had negative USE of RUE in [**2144**], appears chronic.
   UENIs negative [**2146-3-8**].
   .
   # Pain: Not requiring home lidocaine patch
   # FEN: Blood products, replete electrolytes, diabetic diet (on stress
   dose steroids in the setting of sepsis)
   .
   # Prophylaxis: Pneumoboots, PPI
   .
   # Access: R-IJ, PIV
   .
   # Code: Full, will discuss further with patient and family in future.
   .
   # Communication: Patient and daughter
   .
   # Disposition: pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2146-3-8**] 01:45 PM
   18 Gauge - [**2146-3-8**] 01:45 PM
   Arterial Line - [**2146-3-8**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: